US04343945
5-(4-Anisamido)-3-Trichloromethyl-1,2,4-Thiadiazole
A solution of 11.0 g (0.05 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole and 12.8 g (0.08 mole) 4-anisoyl chloride in 200 ml xylene was heated at reflux for 20 hours. Cooling of the reaction mixture resulted in precipitation of the crude product, which was then isolated by filtration. Purification was achieved by washing the crude product with hot hexane. Yield was 12.0 g (82%); m.p. 172° C.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.05 mole, 11.0 g | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | 4-anisoyl chloride | 0.08 mole, 12.8 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-(4-Anisamido)-3-Trichloromethyl-1,2,4-Thiadiazole | C(C1=CC=C(C=C1)OC)(=O)NC1=NC(=NS1)C(Cl)(Cl)Cl | C11H8Cl3N3O2S
